US06605629B1
Ethyl 5-(4-fluoro-1-naphthyl)-2-(2-methyl-1-imidazolyl)-4-oxazolebutanoate (401 mg) was dissolved in 10 ml of tetrahydrofuran, to which was added gradually lithium aluminum hydride (50 mg) under ice-cooling, and the mixture was stirred for 1 hour. Water (0.1 ml) was carefully added to the reaction mixture, which was filtered. The residue on the filter paper was washed with ethyl acetate. The filtrate was concentrated to give crystals of 5-(4-fluoro-1-naphthyl)-2-(2-methyl-1-imidazolyl)-4-oxazolebutanol. Recrystallization from acetone-diethyl ether gave colorless prisms (294 mg, 82%). Melting point 107-109° C.

reactant | Ethyl 5-(4-fluoro-1-naphthyl)-2-(2-methyl-1-imidazolyl)-4-oxazolebutanoate | 401 mg | FC1=CC=C(C2=CC=CC=C12)C1=C(N=C(O1)N1C(=NC=C1)C)CCCC(=O)OCC | C23H22FN3O3
reactant | lithium aluminum hydride | 50 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 0.1 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-(4-fluoro-1-naphthyl)-2-(2-methyl-1-imidazolyl)-4-oxazolebutanol | FC1=CC=C(C2=CC=CC=C12)C1=C(N=C(O1)N1C(=NC=C1)C)CCCCO | C21H20FN3O2
